US06358978B1
350 mg of benzyl [1-(5-amino-[1,3,4]oxadiazol-2-yl)-3-phenylpropyl]-carbamate were dissolved in 5 ml of dry dimethyl sulfoxide, treated with 140 mg of potassium carbonate and 140 mg of methyl isocyanate, and stirred at 80° C. for 16 h. The reaction mixture was cooled, treated with ethyl acetate, washed twice with water and once with saturated sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Benzyl {1-[5-(3-methylureido)-[1,3,4]oxadiazol-2-yl]-3-phenylpropyl}carbamate was obtained, which was employed in the next stage (hydrogenolysis) without further purification.

reactant | benzyl [1-(5-amino-[1,3,4]oxadiazol-2-yl)-3-phenylpropyl]-carbamate | 350 mg | NC1=NN=C(O1)C(CCC1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O | C19H20N4O3
reactant | potassium carbonate | 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isocyanate | 140 mg | CN=C=O | C2H3NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | Benzyl {1-[5-(3-methylureido)-[1,3,4]oxadiazol-2-yl]-3-phenylpropyl}carbamate | CNC(NC1=NN=C(O1)C(CCC1=CC=CC=C1)NC(OCC1=CC=CC=C1)=O)=O | C21H23N5O4
